US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.31 g) and (4-isopropylphenyl)[(5-methoxypyridin-2-yl)methyl]amine (0.38 g) as starting materials, N-(4-isopropylphenyl)-N-[(5-methoxypyridin-2-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide was obtained. This is dissolved in ether, and 4 mol/L-hydrochloric acid/dioxane (0.40 mL) was added. The solvent was evaporated, and ether was added to the residue. The precipitated crystals were collected by filtration to give N-(4-isopropylphenyl)-N-[(5-methoxypyridin-2-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride ½ hydrate (0.54 g). melting point: 108-110° C.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.31 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | (4-isopropylphenyl)[(5-methoxypyridin-2-yl)methyl]amine | 0.38 g | C(C)(C)C1=CC=C(C=C1)NCC1=NC=C(C=C1)OC | C16H20N2O
product | N-(4-isopropylphenyl)-N-[(5-methoxypyridin-2-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC1=NC=C(C=C1)OC | C28H32N2O3
